US05079260
N-[3-(9H-Fluoren-9-yl)propionyl]-L-t-leucine quarter hydrate
A solution of 3-(fluoren-9-yl)propionic acid (2.4 g, 10 mmol) in thionyl chloride was refluxed for two hours. The reaction mixture was cooled down and the solvent was removed in vacuum. A solution of the resulting 3-(fluoren-9-yl)propionic acid chloride was dissolved in dioxane (20 mL) and added into a solution of L-tert-leucine (4 g, 30.5 mmol) in 10% aqueous sodium carbonate (40 mL). The reaction mixture was monitored by quenching an aliquot with methanol than monitor the resulting methyl ester by TLC (10% MeOH in chloroform). After an 1.5 hr water was added and most of the dioxane was removed in vacuum. The aqueous layer was washed with diethyl ether (×3) then was acidified to pH 1 with 10% HCl. The resulting precipitate was purified by a short path chromatography (silica, 5% MeOH in chloroform) to yield 1.5 g (42.1%), mp 79°-83° C.

reactant | 3-(fluoren-9-yl)propionic acid | 10 mmol, 2.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)CCC(=O)O | C16H14O2
reactant | L-tert-leucine | 30.5 mmol, 4 g | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
solvent | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | sodium carbonate | 40 mL | C([O-])([O-])=O.[Na+].[Na+]
product | N-[3-(9H-Fluoren-9-yl)propionyl]-L-t-leucine | C1=CC=CC=2C3=CC=CC=C3C(C12)CCC(=O)N[C@@H](C(C)(C)C)C(=O)O | C22H25NO3
